US07294644B2
Preparation of 5-(3,5-Bis-trifluoromethyl-phenyl)-1-cyclohexylmethyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid methyl ester.
The title compound was prepared according to example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 1-(3,5-bis-trifluoromethyl-phenyl)-2-bromo-propan-1-one as compound of formula S and cyclohexanemethylamine, as R3—(CH2)m—NH2, MS (EI) 461.2 (M)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 1-(3,5-bis-trifluoromethyl-phenyl)-2-bromo-propan-1-one | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(C)Br)=O)(F)F | C11H7BrF6O
reactant | cyclohexanemethylamine | C1(CCCCC1)CN | C7H15N
product | 5-(3,5-Bis-trifluoromethyl-phenyl)-1-cyclohexylmethyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid methyl ester | COC(=O)C1=C(N(C(=C1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC1CCCCC1)C | C23H25F6NO2
